US06235789B1
(Z)-1-[2-(3-tert-Butylureido)ethylidene]-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene
To a solution of 1-(2-aminoethylidene)-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene (1.5 g, 6.48 mmol) in THF (30 ml) was gradually added dropwise, under ice-cooling, Tert-butyl isocyanate (0.84 g, 8.43 mmol). The mixture was stirred for 2 hours at room temperature. The reaction mixture was then poured into water. The organic layer was subjected to ethyl acetate. The extract solution was washed with brine and water, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (hexane:ethyl acetate=8:2),-followed by recrystallization to give the above-titled compound (yield 780 mg, 36%), m.p.175-176° C. (recrystallized from ethyl acetate/diethyl ether).

reactant | 1-(2-aminoethylidene)-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene | 6.48 mmol, 1.5 g | NCC=C1C(CCC2=CC=C(C=C12)OC)(C)C | C15H21NO
reactant | Tert-butyl isocyanate | 8.43 mmol, 0.84 g | C(C)(C)(C)N=C=O | C5H9NO
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (Z)-1-[2-(3-tert-Butylureido)ethylidene]-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene | C(C)(C)(C)NC(NC\C=C/1\C(CCC2=CC=C(C=C12)OC)(C)C)=O | C20H30N2O2
